US05236952
13.2 g of α-(3,4-dimethoxy-5-nitrophenyl)-2-benzimidazolemethanol are dissolved in 200 ml of methylene chloride and, after treatment with 130 g of manganese dioxide, the mixture is stirred at the reflux temperature for 2 hours. After filtration, the solvent is distilled. There is obtained 2-benzimidazolyl (3,4-dimethoxy-5-nitrophenyl) ketone in the form of yellowish crystals of m.p. 212°-213°.

reactant | α-(3,4-dimethoxy-5-nitrophenyl)-2-benzimidazolemethanol | 13.2 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C(O)C=1NC2=C(N1)C=CC=C2 | C16H15N3O5
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 130 g | [O-2].[O-2].[Mn+4]
product | 2-benzimidazolyl (3,4-dimethoxy-5-nitrophenyl) ketone | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C(=O)C=1NC2=C(N1)C=CC=C2 | C16H13N3O5
